US05981500
To a solution of N,N'-bis-(9-fluorenylmethoxycarbonyl)lysine (1.32 g) in dichloromethane (250 ml) was added dicyclohexylcarbodiimide (230 mg) and the mixture stirred at room temperature for 1 hr. The resulting suspension was then sonicated for 0.5 hr then filtered through a layer of Hyflo (trade mark) and the filtrate concentrated under reduced pressure to a volume of approximately 100 ml to give a solution of the desired N,N'-bis-(9-fluorenylmethoxycarbonyl)lysine anhydride. To this solution was added 5-O-t-butyldimethylsilyloximino-22,23-dihydro-25-cyclohexyl-avermectin B1 monosaccharide (Example 29) (670 mg), diisopropylethylamine (294 mg) and 4-dimethylaminopyridine (185 mg). The reaction mixture was stirred at room temperature for 90 hrs then concentrated to dryness under reduced pressure to give a residue which was chromatographed on silica (Kieselgel 60, 230-400 mesh, Merck) (200 g) eluting with dichloromethane changing to dichloromethane-ethyl acetate 9:1 after 11 had been collected. Appropriate fractions were combined and evaporated to dryness under vacuum to give the title compound as a white powder (850 mg). The NMR spectrum was fully consistent with the proposed structure.

reactant | N,N'-bis-(9-fluorenylmethoxycarbonyl)lysine | 1.32 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C36H34N2O6
reactant | dicyclohexylcarbodiimide | 230 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N,N'-bis-(9-fluorenylmethoxycarbonyl)lysine anhydride | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C72H66N4O11
